US07888364B2
4 g of 4-bromo-2-methylbenzonitrile was used in Procedure Q with ethanethiol to afford 4-(ethylthio)-2-methylbenzonitrile. 2 g of 4-(ethylthio)-2-methylbenzonitrile was reacted via Procedure R to give 4-(ethylsulfonyl)-2-methylbenzonitrile. 2.5 g of 4-(ethylsulfonyl)-2-methylbenzonitrile was reacted via Procedure T to give 4-(ethylsulfonyl)-2-methylbenzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(ethylsulfonyl)-2-methylbenzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylsulfonyl)-2-methylbenzamide. MS (Q1) 415.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(ethylsulfonyl)-2-methylbenzoic acid | C(C)S(=O)(=O)C1=CC(=C(C(=O)O)C=C1)C | C10H12O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylsulfonyl)-2-methylbenzamide | ClC1=C(C=C(C=C1)NC(C1=C(C=C(C=C1)S(=O)(=O)CC)C)=O)C1=NC=CC=C1 | C21H19ClN2O3S
